US09403807B2
Step A: N-(1-(3-(4-chlorophenyl)-2-(hydroxyimino)pentan-3-yl)-1H-indol-4-yl)methane sulfonamide
To a solution of N-(1-(3-(4-chlorophenyl)-2-oxopentan-3-yl)-1H-indol-4-yl)methanesulfonamide (200 mg, 0.49 mmol), as described in Example 23 Step A, in EtOH (5 mL) was added hydroxylamine hydrochloride (68 mg, 0.99 mmol) and K2CO3 (137 mg, 0.99 mmol). The mixture was stirred at 130° C. under microwave for 2 h. After removing the solvent, the residue was dissolved in ethyl acetate (30 mL). The organic layer was washed with saturated sodium bicarbonate solution (10 mL) and brine (10 mL), dried over sodium sulfate, and then filtered. After removing the organic solvent, the residue was purified by silica gel chromatography eluting with PE/EA (10/1 to 5/1, v/v) to afford the title compound as a white solid. LC/MS m/z=441.9 [M+Na]+.

reactant | N-(1-(3-(4-chlorophenyl)-2-oxopentan-3-yl)-1H-indol-4-yl)methanesulfonamide | 0.49 mmol, 200 mg | ClC1=CC=C(C=C1)C(C(C)=O)(CC)N1C=CC2=C(C=CC=C12)NS(=O)(=O)C | C20H21ClN2O3S
reactant | hydroxylamine hydrochloride | 0.99 mmol, 68 mg | Cl.NO
reactant | K2CO3 | 0.99 mmol, 137 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | EtOH | 5 mL | CCO | C2H6O
product | N-(1-(3-(4-chlorophenyl)-2-(hydroxyimino)pentan-3-yl)-1H-indol-4-yl)methane sulfonamide | ClC1=CC=C(C=C1)C(C(C)=NO)(CC)N1C=CC2=C(C=CC=C12)NS(=O)(=O)C | C20H22ClN3O3S
